*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-030
* Inductance = 3.21nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-030_freq port1 port2 PARAMS: Cpar=0.038pF Ind=3.21nH
X1 port1 port2 Model2A PARAMS:
+ R1=3
+ R2=0.08
+ C= {Cpar}
+ K1=0.0000122
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18922.4053
.ends 0805HS-030_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-060
* Inductance = 6.72nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-060_freq port1 port2 PARAMS: Cpar=0.034pF Ind=6.72nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.11
+ C= {Cpar}
+ K1=0.0000207
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27745.7486
.ends 0805HS-060_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-080
* Inductance = 8.05nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-080_freq port1 port2 PARAMS: Cpar=0.063pF Ind=8.05nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.12
+ C= {Cpar}
+ K1=0.0000234
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14252.578
.ends 0805HS-080_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-120
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-120_freq port1 port2 PARAMS: Cpar=0.053pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.15
+ C= {Cpar}
+ K1=0.0000244
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16249.4701
.ends 0805HS-120_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-150
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-150_freq port1 port2 PARAMS: Cpar=0.101pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000304
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11478.6957
.ends 0805HS-150_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-180
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-180_freq port1 port2 PARAMS: Cpar=0.058pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.2
+ C= {Cpar}
+ K1=0.0000369
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24654.9914
.ends 0805HS-180_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-220
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-220_freq port1 port2 PARAMS: Cpar=0.084pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.22
+ C= {Cpar}
+ K1=0.0000417
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16862.3891
.ends 0805HS-220_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-270
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-270_freq port1 port2 PARAMS: Cpar=0.061pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.25
+ C= {Cpar}
+ K1=0.0000515
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27285.9054
.ends 0805HS-270_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-330
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-330_freq port1 port2 PARAMS: Cpar=0.091pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.27
+ C= {Cpar}
+ K1=0.0000571
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22561.8057
.ends 0805HS-330_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-390
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-390_freq port1 port2 PARAMS: Cpar=0.08pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.29
+ C= {Cpar}
+ K1=0.0000681
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=29311.2382
.ends 0805HS-390_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-470
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-470_freq port1 port2 PARAMS: Cpar=0.102pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.31
+ C= {Cpar}
+ K1=0.0000831
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28832.8719
.ends 0805HS-470_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-560
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-560_freq port1 port2 PARAMS: Cpar=0.089pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.34
+ C= {Cpar}
+ K1=0.000101
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39839.7955
.ends 0805HS-560_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-680
* Inductance = 67.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-680_freq port1 port2 PARAMS: Cpar=0.084pF Ind=67.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.38
+ C= {Cpar}
+ K1=0.00012
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=43402.4002
.ends 0805HS-680_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-820
* Inductance = 81.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-820_freq port1 port2 PARAMS: Cpar=0.087pF Ind=81.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.42
+ C= {Cpar}
+ K1=0.000134
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=47194.934
.ends 0805HS-820_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-101
* Inductance = 99.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-101_freq port1 port2 PARAMS: Cpar=0.087pF Ind=99.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.46
+ C= {Cpar}
+ K1=0.000156
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=58544.6228
.ends 0805HS-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-121
* Inductance = 119nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-121_freq port1 port2 PARAMS: Cpar=0.094pF Ind=119nH
X1 port1 port2 Model2A PARAMS:
+ R1=16
+ R2=0.51
+ C= {Cpar}
+ K1=0.000172
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=55844.5386
.ends 0805HS-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-151
* Inductance = 149nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-151_freq port1 port2 PARAMS: Cpar=0.107pF Ind=149nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.56
+ C= {Cpar}
+ K1=0.000223
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=49889.2987
.ends 0805HS-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-181
* Inductance = 178nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-181_freq port1 port2 PARAMS: Cpar=0.093pF Ind=178nH
X1 port1 port2 Model2A PARAMS:
+ R1=21
+ R2=0.64
+ C= {Cpar}
+ K1=0.000275
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=62410.8063
.ends 0805HS-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HS-221
* Inductance = 215nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HS-221_freq port1 port2 PARAMS: Cpar=0.081pF Ind=215nH
X1 port1 port2 Model2A PARAMS:
+ R1=24
+ R2=0.7
+ C= {Cpar}
+ K1=0.00034
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=74138.1899
.ends 0805HS-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
